2131-10-10 10:34:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 TRANS ESOPHAGEAL ECHO - At [**2131-10-9**] 09:06 AM
   Uptitrated Captopril
   IABP to 1:2 in PM, 1:4 in evening, 1:8 at 3AM.  After 1hr at 1:8, PAD
   15, ScO2 61, CI 2.7 (4AM).
   S: mild constipation, no CP, SOB, back pain, other complaints
   Tele: Rare PVCs
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Heparin Sodium - 1,200 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-10**] 10:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.9
   Tcurrent: 36.8
C (98.3
   HR: 89 (89 - 106) bpm
   BP: 91/41(70) {91/41(57) - 113/67(90)} mmHg
   RR: 22 (17 - 30) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 80 kg
   Height: 63 Inch
    PAP: (30 mmHg) / (12 mmHg)
   CO/CI (Fick): (5.2 L/min) / (2.8 L/min/m2)
   SvO2: 61%
   Mixed Venous O2% Sat: 61 - 71
   Total In:
                                                                  2,104 mL
                                                                    773 mL
   PO:
                                                                  1,200 mL
                                                                    440 mL
   TF:
   IVF:
                                                                    904 mL
                                                                    333 mL
   Blood products:
   Total out:
                                                                  2,255 mL
                                                                    640 mL
   Urine:
                                                                  2,255 mL
                                                                    640 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -151 mL
                                                                    133 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///25/
   Physical Examination
   GEN: NAD
   P: CTAB, no w/r/r
   CV: RRR, no m/r/g
   Abd: S NT, slightly distended
   Ext: WWP, 2+ pulse on left, 1+ on right.
   Neruo: Normal strength and sensation in distal lower extremities
   Labs / Radiology
   114 K/uL
   10.3 g/dL
   129 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   13 mg/dL
   101 mEq/L
   136 mEq/L
   33
   13.1 K/uL
        [image002.jpg]
                            [**2131-10-8**]  06:38 AM
                            [**2131-10-8**]  07:00 AM
                            [**2131-10-8**]  03:41 PM
                            [**2131-10-8**]  03:49 PM
                            [**2131-10-9**]  05:04 AM
                            [**2131-10-9**]  02:23 PM
                            [**2131-10-9**]  08:00 PM
                            [**2131-10-9**]  11:36 PM
                            [**2131-10-10**]  04:27 AM
                            [**2131-10-10**]  04:45 AM
   WBC
   13.5
   13.1
   Hct
   36
   36
   36
   33.0
   34
   34
   34
   30.2
   33
   Plt
   114
   114
   Cr
   0.8
   0.9
   0.7
   Glucose
   189
   138
   129
   Other labs: PT / PTT / INR:15.1/110.5/1.3, CK / CKMB /
   Troponin-T:3749/196/7.28, ALT / AST:113/480, Alk Phos / T Bili:129/0.5,
   Differential-Neuts:86.8 %, Lymph:9.9 %, Mono:3.1 %, Eos:0.1 %,
   Albumin:4.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   56 y/o female with hyperlipidemia who presented with chest pain and
   found to have a STEMI [**12-30**] to an occluded LAD.
   .
   CARDIOGENIC SHOCK: Cardiac index of 1.3 indicative of cardiogenic shock
   and requiring IABP.  She had a large anterior infarction, now s/p
   stenting of proximal and distal LAD.  Currently not IABP dependent.
   Echo with LV dysfunction, will likely need anticoagulation given apical
   thrombus risk.
   - Will D/C IABP today
   - D/C Swan this afternoon if stable
   - heparin gtt while on IABP, will hold prior to d/c.  Coumadin tonight
   - ASA , statin 80 mg, plavix , Captopril
   - will add  beta-blocker and  spironolactone as tolerated by BP.
   - Daily
   EKGs
   .
   RHYTHM: NSR currently. Monitor on telemetry.
   .
   TOBACCO ABUSE
 Counseled by SW about smoking cessation.
   .
   THROMBOCYTOPENIA
 Platlets stable.  Likely [**12-30**] IABP.
   .
   HYPERLIPIDEMIA - continue statin
   .
   FEN: NPO for now
   ACCESS: PIV's
   PROPHYLAXIS:
   -DVT ppx with Heparin gtt.
   -Bowel regimen
   CODE: full
   DISPO: CCU
   1. IV access: Temporary central access (ICU) Location: Right Femoral,
   Date inserted: [**2131-10-7**] Order date: [**10-8**] @ 1422
   12. Lorazepam 0.5-1 mg PO/IV Q4H:PRN
   hold for sedation or RR <8  Order date: [**10-8**] @ 2206
   2. IV access: Peripheral line Order date: [**10-7**] @ 1259
   13. Magnesium Sulfate 2 gm IV ONCE Mg-1.8 Duration: 1 Doses Order date:
   [**10-10**] @ 0623
   3. Acetaminophen 325-650 mg PO Q6H:PRN Pain  Order date: [**10-7**] @ 2120
   14. Morphine Sulfate 1-2 mg IV Q4H:PRN Pain
   Please hold for sedation or RR < 12.  Order date: [**10-7**] @ 1259
   4. Aspirin EC 325 mg PO DAILY  Order date: [**10-7**] @ 1259
   15. Ondansetron 4 mg IV Q8H:PRN Nausea  Order date: [**10-7**] @ 1259
   5. Atorvastatin 80 mg PO DAILY  Order date: [**10-8**] @ 1020
   16. Pantoprazole 40 mg PO Q24H  Order date: [**10-8**] @ 1020
   6. Atropine Sulfate 0.5 mg IV X1:PRN symptomatic bradycardia &
   hypotension
   [**Month (only) 51**] repeat up to 2 mg total (including Atropine during procedure)
   Order date: [**10-7**] @ 1259
   17. Potassium Chloride 20 mEq / 50 ml SW IV ONCE K-3.9 Duration: 1
   Doses Order date: [**10-10**] @ 0623
   7. Captopril 12.5 mg PO TID Start: next dose
   Hold for MAP < 65  Order date: [**10-9**] @ 2335
   18. Senna 1 TAB PO BID:PRN  Order date: [**10-8**] @ 0620
   8. Clopidogrel 75 mg PO DAILY
   for the recommended duration  Order date: [**10-7**] @ 1259
   19. Sodium Chloride 0.9% Flush 10 mL IV PRN line flush
   Temporary Central Access-ICU: Flush with 10mL Normal Saline daily and
   PRN.  Order date: [**10-8**] @ 1422
   9. Docusate Sodium 100 mg PO BID:PRN  Order date: [**10-8**] @ 0620
   20. Sodium Chloride 0.9% Flush 3 mL IV Q8H:PRN line flush
   Peripheral line: Flush with 3 mL Normal Saline every 8 hours and PRN.
   Order date: [**10-7**] @ 1259
   10. Heparin (IABP) 3 ml/hr IV INFUSION
   For Intra-aortic Ballon Pump Administration Only  Order date: [**10-8**] @
   1346
   21. Warfarin 5 mg PO DAILY16  Order date: [**10-10**] @ 1017
   11. Heparin IV per Weight-Based Dosing Guidelines
   Order date: [**10-7**] @ 1259

2131-10-11 06:49:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   IABP, swan and A line removed without complications
   Chest pain at 9:40pm ([**3-8**], SBP 120, HR 100s) pt sitting up, eating ice
   chips, relieved with NTG x 2.  EKG unchanged.
   ROS
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Coumadin (Warfarin) - [**2131-10-10**] 04:00 PM
   Other medications:
   Flowsheet Data as of  [**2131-10-11**] 06:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.6
   Tcurrent: 36.9
C (98.4
   HR: 91 (88 - 107) bpm
   BP: 93/55(64) {87/43(58) - 126/67(77)} mmHg
   RR: 24 (15 - 33) insp/min
   SpO2: 95% NC
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 78 kg (admission): 80 kg
   Height: 63 Inch
   Last in early afternoon:
   PAP: (39 mmHg) / (15 mmHg)
   CO/CI (Fick): (5.4 L/min) / (3 L/min/m2)
   SvO2: 65%
   Mixed Venous O2% Sat: 65 - 65
   Total In:
                                                                  1,696 mL
   PO:
                                                                  1,280 mL
   TF:
   IVF:
                                                                    416 mL
   Blood products:
   Total out:
                                                                  1,885 mL
                                                                    560 mL
   Urine:
                                                                  1,885 mL
                                                                    560 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -189 mL
                                                                   -560 mL
   Physical Examination
   GEN
   HEENT
   CV: No new murmurs
   PULM: Crackles at bases
   ABD
   EXT
   NEURO
   Labs / Radiology
   114 K/uL
   10.9
   129 mg/dL
   0.7 mg/dL
   25 mEq/L
   3.9 mEq/L
   13 mg/dL
   101 mEq/L
   136 mEq/L
   33
   13.1 K/uL
        [image002.jpg]
                            [**2131-10-8**]  07:00 AM
                            [**2131-10-8**]  03:41 PM
                            [**2131-10-8**]  03:49 PM
                            [**2131-10-9**]  05:04 AM
                            [**2131-10-9**]  02:23 PM
                            [**2131-10-9**]  08:00 PM
                            [**2131-10-9**]  11:36 PM
                            [**2131-10-10**]  04:27 AM
                            [**2131-10-10**]  04:45 AM
                            [**2131-10-10**]  03:36 PM
   WBC
   13.5
   13.1
   Hct
   36
   36
   33.0
   34
   34
   34
   30.2
   33
   33
   Plt
   114
   114
   Cr
   0.8
   0.9
   0.7
   Glucose
   189
   138
   129
   Other labs: PT / PTT / INR:15.1/110.5/1.3, CK / CKMB /
   Troponin-T:3749/196/7.28, ALT / AST:113/480, Alk Phos / T Bili:129/0.5,
   Differential-Neuts:86.8 %, Lymph:9.9 %, Mono:3.1 %, Eos:0.1 %,
   Albumin:4.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.8 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   56 y/o female with HL and tobacco abuse pw chest pain and found to have
   a STEMI [**12-30**] to an occluded LAD.
   .
   CARDIOGENIC SHOCK: s/p large anterior infarct and stenting of LAD,
   initially cardiac index of 1.3 indicative of cardiogenic shock and
   requiring IABP.
   - IABP and swan removed yesterday after showing no more dependence (CI
   3, MV0@ 65% and PAD 15 prior to removal)
   - Continues to do well without mechanical support
 BP and HR stable.
   - Coumadin started for low flow in area of akinetic/hypokinetic apex
   - ASA , statin 80 mg, plavix , Captopril
   - will add  beta-blocker and  spironolactone as tolerated by BP.
   - Daily EKGs
   .
   CHEST PAIN: similar in quality to prior CP but in setting of PO intake.
   -          DDx: esophageal spasm, inflammatory, ACS.
   -          ? recheck CEs.
   .
   RHYTHM: NSR currently. Monitor on telemetry.
   .
   TOBACCO ABUSE
 Counseled by SW about smoking cessation.
   .
   THROMBOCYTOPENIA
 Platlets stable.  Likely [**12-30**] IABP.
   .
   HYPERLIPIDEMIA - continue statin at increased dose
   .
   FEN: Cardiac, No IVF, lytes prn
   ACCESS: PIV's
   PROPHYLAXIS:
   -DV: Warfarin, PPI
   CODE: full
   DISPO: CCU
                       Active Medications [**Known lastname 3551**],[**Known firstname **] A
                         1. Warfarin 5 mg PO DAILY16
   8. Morphine Sulfate 1-2 mg IV Q4H:PRN Pain
   2. Nitroglycerin SL 0.3 mg SL PRN CP
   9. Docusate Sodium 100 mg PO BID
   3. Aspirin EC 325 mg PO DAILY
   10. Ondansetron 4 mg IV Q8H:PRN Nausea
   4. Atorvastatin 80 mg PO DAILY
   11. Pantoprazole 40 mg PO Q24H
   5. Captopril 12.5 mg PO TID
   12. Senna 1 TAB PO BID:PRN
   6. Clopidogrel 75 mg PO DAILY
   13. Acetaminophen 325-650 mg PO Q6H:PRN Pain
   7. Lorazepam 0.5-1 mg PO/IV Q4HPRN
   14. Aluminum-Magnesium OH.-Simethicone 15-30mL prn

2131-10-12 06:42:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   STEMI
   24 Hour Events:
   Patient
s SBPs have been in 70-90s.  Received 250cc NS x 3 in past 18
   hrs.  Added BB and switched from captopril to lisinopril.
   Temp 100.0 at MN, received APAP x 1, resolved.
   Allergies:
   No Known Drug Allergies
   Other ICU medications:
   Furosemide (Lasix) - [**2131-10-11**] 12:00 PM
   Other medications:
   ASA 325mg
   Plavix 75mg
   Lipitor 80mg
   Pantoprazole 40mg
   Lisinopril 10mg
   Coumadin 5mg
   Lopressor 25mg TID
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2131-10-12**] 06:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 37
C (98.6
   HR: 86 (79 - 109) bpm
   BP: 99/58(68) {74/43(50) - 124/6,756(92)} mmHg
   RR: 20 (10 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 78 kg (admission): 80 kg
   Height: 63 Inch
             Total In:
                                                                    922 mL
                                                                    590 mL
   PO:
                                                                    672 mL
                                                                     90 mL
   TF:
   IVF:
                                                                    250 mL
                                                                    500 mL
   Blood products:
   Total out:
                                                                  2,115 mL
                                                                    460 mL
   Urine:
                                                                  2,115 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,193 mL
                                                                    130 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   GEN NAD, appears more comfortable
   HEENT MMM, JVP 8cm
   CV: No new murmurs or thrills, RRR
   PULM: Crackles at bases
   ABD soft, NT, ND, +BS, no HSM
   EXT no edema, WWP
   NEURO A+O x 3
   SKIN small left groin hematoma, no bruits or tenderness
   Labs / Radiology
   168 K/uL
   10.1 g/dL
   116 mg/dL
   0.9 mg/dL
   23 mEq/L
   4.4 mEq/L
   23 mg/dL
   104 mEq/L
   135 mEq/L
   29.2 %
   10.2 K/uL
        [image002.jpg]
                            [**2131-10-9**]  05:04 AM
                            [**2131-10-9**]  02:23 PM
                            [**2131-10-9**]  08:00 PM
                            [**2131-10-9**]  11:36 PM
                            [**2131-10-10**]  04:27 AM
                            [**2131-10-10**]  04:45 AM
                            [**2131-10-10**]  03:36 PM
                            [**2131-10-11**]  06:20 AM
                            [**2131-10-11**]  08:34 PM
                            [**2131-10-12**]  03:08 AM
   WBC
   13.5
   13.1
   9.1
   10.2
   Hct
   33.0
   34
   34
   34
   30.2
   33
   33
   30.6
   29.2
   Plt
   114
   114
   143
   168
   Cr
   0.9
   0.7
   0.8
   1.0
   0.9
   TropT
   6.29
   Glucose
   138
   129
   115
   120
   116
   Other labs: PT / PTT / INR:14.2/23.5/1.2, CK / CKMB /
   Troponin-T:167/4/6.29, ALT / AST:113/480, Alk Phos / T Bili:129/0.5,
   Differential-Neuts:86.8 %, Lymph:9.9 %, Mono:3.1 %, Eos:0.1 %,
   Albumin:4.2 g/dL, Ca++:8.3 mg/dL, Mg++:1.9 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
   56 y/o female with HL and tobacco abuse pw chest pain and found to have
   a STEMI [**12-30**] to an occluded LAD.
   CARDIOGENIC SHOCK: s/p large anterior infarct and stenting of LAD,
   initially cardiac index of 1.3 indicative of cardiogenic shock and
   requiring IABP.
   - IABP and swan removed yesterday after showing no more dependence (CI
   3, MV0@ 65% and PAD 15 prior to removal)
   - Continues to do well without mechanical support
 BP and HR stable.
   - Coumadin started for low flow in area of akinetic/hypokinetic apex
   - ASA , statin 80 mg, plavix , Captopril
   - Will change captopril to lisinopril
   - will add  beta-blocker today, and still hold off on spironolactone
   - Daily EKGs
   CHF: pt fluid overloaded, will give low dose lasix and monitor closely
   CHEST PAIN: similar in quality to prior CP but in setting of PO intake.
   -          DDx: esophageal spasm, inflammatory, ACS.
   -          ? recheck CEs.
   RHYTHM: NSR currently. Monitor on telemetry.
   TOBACCO ABUSE
 Counseled by SW about smoking cessation.
   THROMBOCYTOPENIA
 Platlets stable.  Likely [**12-30**] IABP.
   HYPERLIPIDEMIA - continue statin at increased dose
   FEN: Cardiac, No IVF, lytes prn
   ACCESS: PIV's
   PROPHYLAXIS:
   -DV: Warfarin, PPI
   CODE: full
   DISPO: CCU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2131-10-10**] 11:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: